US09388161B2
A Parr bottle was charged with 8-chloro-2-methyl-5-phenoxyquinoline (0.93 g, 3.45 mmol), methanol (20 mL), and 3 M aqueous sodium hydroxide solution (3.79 mL, 11.38 mmol). The bottle was flushed with nitrogen, and 10% palladium on carbon (0.5 g, 0.470 mmol) was added. The mixture was then shaken under an atmosphere of hydrogen (30 psig). After 4.5 h, the mixture was filtered through a pad of Celite. The bottle and filter pad were rinsed with methanol. The filtrate was concentrated under reduced pressure. The residue was then partitioned between ethyl acetate and 5% aqueous sodium chloride solution (25 mL). The layers were separated, and the organic layer washed again with 5% aqueous sodium chloride solution (25 mL). The aqueous washes were extracted once with ethyl acetate, and the combined extracts were concentrated to afford crude 2-methyl-5-phenoxyquinoline (0.82 g, 101%) as a pale yellow-orange syrup which was used without further purification. MS (ESI, pos. ion) m/z 236 [M+1].

reactant | 8-chloro-2-methyl-5-phenoxyquinoline | 3.45 mmol, 0.93 g | ClC=1C=CC(=C2C=CC(=NC12)C)OC1=CC=CC=C1 | C16H12ClNO
reactant | sodium hydroxide | 11.38 mmol, 3 M, 3.79 mL | [OH-].[Na+]
catalyst | palladium on carbon | 0.470 mmol, 0.5 g | [Pd] | Pd
solvent | methanol | 20 mL | CO | CH4O
product | 2-methyl-5-phenoxyquinoline | 0.82 g, 101% | CC1=NC2=CC=CC(=C2C=C1)OC1=CC=CC=C1 | C16H13NO
